US07842688B2
c) tert-Butyl 3-(3-aminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.710 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(3-nitrobenzyloxy)piperidine-1-carboxylate in 10 ml of tetrahydrofuran is hydrogenated in the presence of 0.190 g of Raney nickel over 20 hours. The reaction mixture is filtered and the filtrate is concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.14 (1:2 EtOAc-heptane); Rt=4.93.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(3-nitrobenzyloxy)piperidine-1-carboxylate | 0.710 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=CC=C2)[N+](=O)[O-])C=CC=C1 | C34H42N2O8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 0.190 g | [Ni] | Ni
product | tert-Butyl 3-(3-aminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | NC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1 | C34H44N2O6
